US07834043B2
450 g of tert-Butyl (1S)-1-[(2R)-oxiran-2-yl]-2-phenylethylcarbamate was treated with 1.1 equivalents of diethyl malonate and 1.05 equivalents of sodium ethoxide in 1200 mL of ethanol at 5° C. for 0.5 hr, then at 25° C. for 5 hrs. The reaction mixture was quenched with acetic acid till the pH of the mixture was about 6. The reaction mixture was extracted with ethyl acetate (4 L) and the isolated organic phase was washed sequentially with 25% brine (4 L), 5% NaHCO3 (5L), and 25% brine (4 L), dried over NaSO4, filtered, concentrated and chased with 2 L of methyl tert-butyl ether to dryness. The oil was dissolved in 950 mL of methyl tert-butyl ether and warmed to 45° C., added heptane (4L) and cooled to −5° C. The solid was isolated by filtration to provide tert-butyl(1S)-1-[(2S)-5-oxotetrahydrofuran-2-yl]-2-phenylethylcarbamate. A mixture of the tert-butyl (1S)-1-[(2S)-5-oxotetrahydrofuran-2-yl]-2-phenylethylcarbamate (400 g, 1.028 mol), the product of Example 111-7 (321 g, 1.08 mol, 1.05 equivalents) in absolute ethanol (3.35 L) was cooled to 5° C. was treated with a solution of sodium ethoxide (77.5 g sodium ethoxide in 0.65 L of absolute ethanol, 1.05 equivalents) over 1 hour. The reaction mixture was stirred at 3° C. for 3 hours. Lithium hydroxide monohydrate (215.6 g, 5.138 mol, 5 equivalents) was added all at once and the temperature rose to 10° C. The mixture was stirred at 10° C. for 2 hours, treated with acetic acid (308.6 gm, 5.138 mol, 5 eq) and stirred at 60° C. for 17 hours. The reaction mixture was treated with distilled water (4 L) over 20 minutes while maintaining the internal temperature >55° C. The slurry was cooled slowly to 14° C. over 2.5 hours, filtered, washed with 1:1 ethanol:water (total volume=2 L), heptanes (2 L) and dried at 55° C. vacuum oven under N2 for 40 hours to give the title compound (451.9 g, 91% yield). 1H NMR (CDCl3): δ 8.65(m, 1H), 7.90(m, 2H), 7.65-7.75 (m, 2H), 7.17-7.30(m, 8H), 4.63(m, 1H), 4.32(m, 1H), 3.95(m, 1H), 3.32(m, 1H), 2.7-3.0(m, 4H), 2.10 (m, 1H), 1.74(m, 1H), 1.36 (s, 9H).

reactant | tert-Butyl (1S)-1-[(2R)-oxiran-2-yl]-2-phenylethylcarbamate | 450 g | O1[C@@H](C1)[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O | C15H21NO3
reactant | diethyl malonate | 1.1 equivalents | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium ethoxide | 1.05 equivalents | [O-]CC.[Na+]
solvent | ethanol | 1200 mL | C(C)O | C2H6O
product | tert-butyl(1S)-1-[(2S)-5-oxotetrahydrofuran-2-yl]-2-phenylethylcarbamate | O=C1CC[C@H](O1)[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O | C17H23NO4
